US05047404
3-Methylthio-8-oxo-6-(2-cyclopropylmethoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
In a similar manner to Example 18 reaction of 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine (prepared from 3-methylthio-5-oxo-6-carboethoxy-4,5-dihydro-1,2,4-triazine, 1.5 g) with 2-cyclopropoxybenzamidine hydrochloride (2.35 g) and triethylamine (1.75 g) afforded a yellow solid (1.31g) which was recrystallised from acetonitrile and then from acetonitrile/ethanol (50%) to afford the title compound, 0.70 g, m.p. 235-236° C.

reactant | 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine | 1.5 g | CSC=1N=NC(=C(N1)Cl)C(=O)OCC | C7H8ClN3O2S
reactant | 2-cyclopropoxybenzamidine hydrochloride | 2.35 g | Cl.C1(CC1)OC1=C(C(=N)N)C=CC=C1
reactant | triethylamine | 1.75 g | C(C)N(CC)CC | C6H15N
product | 3-Methylthio-8-oxo-6-(2-cyclopropylmethoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | 1.31g | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCC2CC2 | C16H15N5O2S
